US06090813
4-Chloro-2-methylpyrimidine (135 mg) was added to a solution of 1-(4-bromophenylsulphonyl)-4-(piperidin-4-ylcarbonyl )piperazine (415 mg) in THF (15 ml) containing triethylamine (0.2 ml). The mixture was heated at reflux for 16 hours. After cooling, the THF was evaporated. The residue was treated with H2O (20 ml) and the aqueous extracted with EtOAc (3×20 ml). The combined organic phases were washed with saturated brine (1×20 ml) dried and evaporated to give an oil which was purified by chromatography on silica gel. Elution with CH2Cl2 /MeOH/0.88NH3 (96:3:1) gave an oil. Trituration with Et2O (10 ml) gave, as a colourless solid, 1-(4-bromophenylsulphonyl) 4-(4-(1-(2-methylpyrimidyl)piperidin-4-ylcarbonyl)piperazine (152 mg), mp 200-202° C.;

reactant | 4-Chloro-2-methylpyrimidine | 135 mg | ClC1=NC(=NC=C1)C | C5H5ClN2
reactant | 1-(4-bromophenylsulphonyl)-4-(piperidin-4-ylcarbonyl )piperazine | 415 mg | BrC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)C1CCNCC1 | C16H22BrN3O3S
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | Et2O | 10 ml | CCOCC | C4H10O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 4-(1-(2-methylpyrimidyl)piperidin-4-ylcarbonyl)piperazine | 152 mg | CC1=NC=CC(=N1)N1CCC(CC1)C(=O)N1CCNCC1 | C15H23N5O
